US04547514
3-(3-Chlorophenoxy)-1-pyrrolidinecarbonyl Chloride
A benzene solution of 450 ml of 2M phosgene (0.9 mole) was cooled to 10° C. and while stirring, 210 g (0.81 mole) of 1-benzyl-3-(3-chlorophenoxy)pyrrolidine in 210 ml of tetrahydrofuran was added over a 31/2 hr period. The reaction mixture was allowed to stir overnight and then filtered to remove the hydrochloric acid salt of unreacted starting material. The filtrate was evaporated to give a dark colored oil which was triturated with three 500 ml portions of 30/60 petroleum ether decanting off the petroleum ether each time from the oil residue. The petroleum ether layers were cooled and the oils which separated were combined to give 17 g of pure title product as an oil. After washing with more petroleum ether, the oil (203 g) residue contained about 17% benzyl chloride by NMR analysis. Yield of contained product in both portions was 88%.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | phosgene | 0.9 mole, 2M, 450 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(3-chlorophenoxy)pyrrolidine | 0.81 mole, 210 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC(=CC=C1)Cl | C17H18ClNO
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
product | 3-(3-Chlorophenoxy)-1-pyrrolidinecarbonyl Chloride | 17 g | ClC=1C=C(OC2CN(CC2)C(=O)Cl)C=CC1 | C11H11Cl2NO2
